US05475000
A mixture of 0.4 g (0.00187 moles) of 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine, 15 ml of dimethylformamide, 0.25 g (0.00187 moles) of anhydrous potassium carbonate and 0.34 ml (0.00374 moles) of propyl bromide was stirred at 90° C. for 1 hour. The hot dark brown solution was filtered, and the filtrate was evaporated. The dark brown oily residue, which is the mixture of the title compounds, started to crystallize. To the oily crystals 10 ml of ethanol were added, and the crystals were collected. 0.15 g (31.3%) of 3-(2-propyl-2H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2 -a]pyrimidine was obtained, in the form of pale-yellow crystals, m.p.: 115°-116° C.

reactant | 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine | 0.00187 moles, 0.4 g | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
reactant | potassium carbonate | 0.00187 moles, 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyl bromide | 0.00374 moles, 0.34 ml | C(CC)Br | C3H7Br
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(2-propyl-2H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2 -a]pyrimidine | 0.15 g, 31.3% | C(CC)N1N=C(N=N1)C1=CN=C2N(C1=O)C=CC=C2 | C12H12N6O
